US08008298B2
1-(4-{3-[7-(1-Methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-ethanone
A 0° C. solution of (1-methyl-cyclohexyl)-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone (24 mg, 0.06 mmol) in DMF (1 ml) was treated with Acetic anhydride (0.01 ml, 0.06 mmol). The reaction mixture was removed from the ice bath and allowed to stir at room temperature for 16 hours. The reaction mixture was partitioned between EtOAc/sat. NaHCO3. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a white solid which was filtered through a Buchner funnel and washed with Et2O and Hexanes to afford a yellow solid. The yellow solid was dissolved in THF (2 ml) and treated with 1N NaOH (0.05 ml, 0.05 mmol). After stirring at room temperature for 16 hours, the reaction mixture was partitioned between 1N HCl and EtOAc. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a light brown oil. The oil was triturated with Et2O providing 4 mg (15%) of 1-(4-{3-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-ethanone as a pale brown solid. M+H=446.

reactant | (1-methyl-cyclohexyl)-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 0.06 mmol, 24 mg | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CCNCC2 | C24H29N5O
reactant | Acetic anhydride | 0.06 mmol, 0.01 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 0.05 mmol, 1N, 0.05 ml | [OH-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(4-{3-[7-(1-Methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-ethanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)N2CCN(CC2)C(C)=O | C26H31N5O2
